US06281356B1
6-Imidazol-1-yl-1-methyl-1H-indole (7.0 g, 35.5 mmol) was dissolved in CH2Cl2 (100 mL) (dried under 3A molecular sieves) at 0° C. A solution of oxalyl chloride in CH2Cl2 (2 M, 35.5 mL, 71 mmol) was added dropwise over 10 min. The mixture was stirred at 0° C. for 1.5 h and evaporated. Ether (100 mL) was added to the solid residue and after the mixture was stirred for 30 min, the resulting yellow solid was filtered off, washed with ether and dried under vacuum for 30 min. 1-Methyl-3-indoleacetimidic acid isopropyl ester hydrochloride (9.6 g, 36 mmol) and CH2Cl2 (200 mL) were added to the yellow solid at 0° C. Et3N (dried over 3A° molecular sieves) (30 mL) was added dropwise over 10 min. The orange-red mixture was stirred at room temperature overnight. The mixture was diluted with CH2Cl2 (300 mL) and washed with aqueous Na2CO3 (2×200 mL). The aqueous layer was back extracted with CH2Cl2 (100 mL). The combined organic extracts were washed with brine, dried (K2CO3) and evaporated. MeOH (100 mL) and concentrated HCl (37%, 10 mL) were added and the mixture was heated at reflux for 2 h. The reaction mixture was cooled, diluted with water (200 mL) and EtOAc (200 mL). The mixture was made basic using solid K2CO3 and extracted with EtOAc (4×200 mL). The combined organic extracts were washed with aqueous Na2CO3 (2×200 mL) brine and dried (K2CO3). The mixture was passed through a pad of silica gel (10×10 cm) and the pad was washed with 10% methanol in EtOAc. Evaporation of the combined eluates gave the crude product as an orange solid. Recrystallization of the crude product using EtOAc, MeOH and CHCI3 gave 3-(6-imidazol-1-yl-1-methyl-1H-indol-3-yl)-4-(1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione (5.0 g, 33%) as an orange solid.

reactant | 6-Imidazol-1-yl-1-methyl-1H-indole | 35.5 mmol, 7.0 g | N1(C=NC=C1)C1=CC=C2C=CN(C2=C1)C | C12H11N3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-Methyl-3-indoleacetimidic acid isopropyl ester hydrochloride | 36 mmol, 9.6 g | Cl.C(C)(C)OC(CC1=CN(C2=CC=CC=C12)C)=N
reactant | Et3N | 30 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 71 mmol, 2 M, 35.5 mL | C(Cl)Cl | CH2Cl2
product | 3-(6-imidazol-1-yl-1-methyl-1H-indol-3-yl)-4-(1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione | 5.0 g, 33% | N1(C=NC=C1)C1=CC=C2C(=CN(C2=C1)C)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C25H19N5O2
